US09085555B2
To the crude solution of (3S,4S)-3,4-difluoro-3,4-dihydro-2H-pyrrole (0.52 mmol) in MeOH under argon were successively added (3-acetyl-indol-1-yl)-acetic acid (57 mg, 0.26 mmol) and 1-chloro-2-fluoro-3-(isocyanomethyl)benzene (44 mg, 0.26 mmol) in MeOH (0.2 mL). The reaction mixture was stirred at RT for 60 h and poured into a saturated aqueous solution of NaHCO3 and extracted with CH2Cl2 (×2). The combined organic extracts were dried (Na2SO4), filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (Gold RediSep column, 24 g, CH2Cl2 to CH2Cl2/MeOH 95-5), the fractions containing the desired material as a mixture of 2 diastereosiomers were concentrated and the residue was purified again by preparative HPLC (Waters Sunfire C18-OBD, 5 μm, 30×100 mm, eluent: 5% to 100% CH3CN in H2O in 25 min, CH3CN and H2O containing 0.1% TFA, flow: 40 mL/min) to give (2S,3S,4S)-1-[2-(3-acetyl-indol-1-yl)-acetyl]-3,4-difluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide: Rf (EtOAc): 0.60; MS (UPLC): 492.2/494.2 [M+H]+, 536.2/538.2 [M+HCOO]− and (2R,3S,4S)-1-[2-(3-acetyl-indol-1-yl)-acetyl]-3,4-difluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide; Rf (EtOAc): 0.50; MS (UPLC): 492.2/494.2 [M+H]+, 536.2/538.2 [M+HCOO]−; tR (HPLC conditions a): 3.37 min. The absolute stereochemistry has been assigned tentatively based on comparison of 1H-NMR spectra and test results in the biological assay measured for both diastereosiomers.

reactant | (3S,4S)-3,4-difluoro-3,4-dihydro-2H-pyrrole | 0.52 mmol | F[C@H]1CN=C[C@@H]1F | C4H5F2N
reactant | (3-acetyl-indol-1-yl)-acetic acid | 0.26 mmol, 57 mg | C(C)(=O)C1=CN(C2=CC=CC=C12)CC(=O)O | C12H11NO3
reactant | 1-chloro-2-fluoro-3-(isocyanomethyl)benzene | 0.26 mmol, 44 mg | ClC1=C(C(=CC=C1)C[N+]#[C-])F | C8H5ClFN
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | CO | CH4O
solvent | MeOH | 0.2 mL | CO | CH4O
product | (2S,3S,4S)-1-[2-(3-acetyl-indol-1-yl)-acetyl]-3,4-difluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide | ClC=1C(=C(CNC(=O)[C@@H]2N(C[C@@H]([C@H]2F)F)C(CN2C=C(C3=CC=CC=C23)C(C)=O)=O)C=CC1)F | C24H21ClF3N3O3
